US09216980B2
Preparation of 1,1,2,2,3,3,4,4,4-Nonafluoro-butane-1-sulfonic acid 9-benzenesulfonyl-3-bromo-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yl ester
Pyridine (23.5 mL, 290 mmol) was added to a suspension of 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (5.01 g, 11.7 mmol) in DCM (400 mL) at room temperature. The resultant solution was cooled to 0° C. then nonafluorobutanesulfonic anhydride (7.16 mL, 23.4 mmol) was added portionwise over 15 minutes maintaining the internal temperature below 5° C. The reaction mixture was stirred for 15 minutes at 0° C. then at room temperature for 3 h. The solution was cooled to 0° C. and 1M hydrochloric acid (290 mL) was added then the mixture was extracted with DCM (×3) and the combined organic phase was dried over sodium sulfate, filtered and evaporated. The residue was triturated with DCM and the resultant solid collected by filtration. The filtrate was purified by chromatography (silica, 50 g column, DCM) and the appropriate fractions were combined with the solid collected previously and dried to afford the title compound (6.63 g, 80%). 1H NMR (CDCl3, 300 MHz): 9.93 (s, 1H); 8.86 (d, J=2.2 Hz, 1H); 8.75 (d, J=2.2 Hz, 1H); 8.30-8.24 (m, 2H); 7.73-7.65 (m, 1H); 7.61-7.52 (m, 2H).

reactant | Pyridine | 290 mmol, 23.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 11.7 mmol, 5.01 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
reactant | nonafluorobutanesulfonic anhydride | 23.4 mmol, 7.16 mL | FC(C(C(C(S(=O)(=O)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8F18O5S2
reactant | hydrochloric acid | 1M, 290 mL | Cl | ClH
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 1,1,2,2,3,3,4,4,4-Nonafluoro-butane-1-sulfonic acid 9-benzenesulfonyl-3-bromo-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yl ester | 6.63 g, 80% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C#N)C=C(C=N2)Br | C21H8BrF9N4O5S2
